US04623648
The two-step process for producing pure 1-azaxanthone starts from 2-chloronicotinic acid which is reacted with sodium phenoxide at 160°-200° C., the mixture is dissolved in water and acidified, the 2-phenoxynicotinic acid obtained is cyclized with a dehydrating agent, usually polyphosphoric acid, at 120°-200° C. The cooled mixture is dissolved in water and neutralized with an alkaline hydroxide, and the precipitated 1-azaxanthone is washed and recrystallized.

reactant | 2-chloronicotinic acid | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | sodium phenoxide | [O-]C1=CC=CC=C1.[Na+]
solvent | water | O | H2O
product | 2-phenoxynicotinic acid | O(C1=CC=CC=C1)C1=C(C(=O)O)C=CC=N1 | C12H9NO3
